US07973169B2
35) N-[4-(2-Methoxy-phenyl)-thiazol-2-yl]-4-methyl -benzamide
4-(2-Methoxy-phenyl)-thiazol-2-ylamine (41.3 mg, 0.200 mmol) and 4-methyl-benzoyl chloride (30.9 mg, 0.200 mmol) were dissolved in 1 mL of pyridine. The reaction mixture was stirred at room temperature overnight and then purified by reverse-phase preparative liquid chromatography (7.32 mg, 0.0226 mmol, 11.3%). ESI-MS m/z calc. 324.1, found 325.2 (M+1)+ Retention time 3.75 minutes.

reactant | 4-(2-Methoxy-phenyl)-thiazol-2-ylamine | 0.200 mmol, 41.3 mg | COC1=C(C=CC=C1)C=1N=C(SC1)N | C10H10N2OS
reactant | 4-methyl-benzoyl chloride | 0.200 mmol, 30.9 mg | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(2-Methoxy-phenyl)-thiazol-2-yl]-4-methyl -benzamide | COC1=C(C=CC=C1)C=1N=C(SC1)NC(C1=CC=C(C=C1)C)=O | C18H16N2O2S
